US07893059B2
Alternatively, 5-chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine was reacted with 1-methyl-4-(methylamino)piperidine, without triethylamine, via General Procedure C, to give crude 5-chloro-N-methyl-N-(1-methylpiperidin-4-yl)-7-morpholinothiazolo[4,5-d]pyrimidin-2-amine, which was then reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine via General Procedure C again to give 144 after purification by silica gel chromatography. MS (Q1) 441 (M+)

reactant | 5-chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)S(=O)(=O)C)N2CCOCC2 | C10H11ClN4O3S2
reactant | 1-methyl-4-(methylamino)piperidine | CN1CCC(CC1)NC | C7H16N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-chloro-N-methyl-N-(1-methylpiperidin-4-yl)-7-morpholinothiazolo[4,5-d]pyrimidin-2-amine | ClC=1N=C(C2=C(N1)N=C(S2)N(C2CCN(CC2)C)C)N2CCOCC2 | C16H23ClN6OS
